US06930120B2
3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester
3-(4-Benzyloxy-phenyl)-2-methyl-2-o-tolyloxy-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester (7.4 g, 14.3 mmol) was dissolved in ethyl acetate (300 mL), treated with 5% palladium on carbon (7.4 g), and stirred under an atmosphere of hydrogen for 96 h. The suspension was filtered through celite and concentrated in vacuo to provide the titled compound (4.8 g, 100%) as an opaque yellow oil.

reactant | 3-(4-Benzyloxy-phenyl)-2-methyl-2-o-tolyloxy-3-(2,2,2-trifluoro-acetoxy)-propionic acid ethyl ester | 14.3 mmol, 7.4 g | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(OC1=C(C=CC=C1)C)C)=O | C28H27F3O6
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 7.4 g | [Pd] | Pd
product | 3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxy-propionic acid ethyl ester | 4.8 g, 100% | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=C(C=CC=C1)C)C)=O | C19H22O4
